US09290490B2
Ethyl 4-[(5-bromo-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate (223 mg, 0.676 mmol), 4-methyl-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine (220 mg, 0.676 mmol) and 1,1′-bis(diphenylphosphino)-ferrocenedichloro palladium(II) dichloromethane complex (49.5 mg, 0.068 mmol) were combined in a flask that was then sealed and flushed with nitrogen (2×). Dioxane (4 mL) and sodium carbonate (2 M in water, 1.015 mL, 2.029 mmol) were added, and the reaction was flushed again with nitrogen (2×). The mixture was heated to 80° C. for 1 hour and then cooled to room temperature, diluted with water and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. Purification of the residue by chromatography on silica gel (5-60% EtOAc in hexanes) afforded ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate as a yellow foam. MS ESI calc'd. for C25H29N4O2S [M+H]+ 449. found 449. 1H NMR (500 MHz, DMSO-d6) δ 9.59 (s, 1H), 8.34 (d, J=5.0, 1H), 8.05 (s, 1H), 8.02 (s, 1H), 7.51 (s, 1H), 7.07 (s, 1H), 6.74 (d, J=5.0 Hz, 1H), 6.46 (s, 1H), 4.06 (q, J=7.1 Hz, 2H), 3.55-3.47 (m, 1H), 3.31 (s, 2H), 2.66-2.57 (m, 1H), 2.44-2.24 (m, 7H), 2.04-1.97 (m, 2H), 1.61-1.46 (m, 2H), 1.17 (t, J=7.1 Hz, 3H).

reactant | Ethyl 4-[(5-bromo-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate | 0.676 mmol, 223 mg | BrC1=CN=C(S1)C=C1CCC(CC1)C(=O)OCC | C13H16BrNO2S
reactant | 4-methyl-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | 0.676 mmol, 220 mg | CC1=NC(=NC=C1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C18H24BN3O2
reactant | sodium carbonate | 2.029 mmol, 2 M, 1.015 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methylidene]cyclohexanecarboxylate | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C)C1=CN=C(S1)C=C1CCC(CC1)C(=O)OCC | C25H28N4O2S
